US07977340B2
1-Ethyl-3-[7-(2-hydroxy-thiazol-4-yl)-5-pyridin-3-yl-benzothiazol-2-yl]-urea: [Example 172]
To a solution of 1-ethyl-3-[7-(2-methoxy-thiazol-4-yl)-5-pyridin-3-yl-benzothiazol-2-yl]-urea (0.05 g, 0.12 mmol) in dry DCM (5 mL) was added BBr3 (0.20 mL) under nitrogen atmosphere at 0° C. The reaction mixture was then heated at 50° C. for 24 h under nitrogen atmosphere. After the completion of the reaction (TLC monitoring), the reaction mixture was cooled to 0° C. and then quenched with ice-cold water followed by extraction with DCM. The combined organic layers were dried over anhydrous Na2SO4, and evaporated to dryness under reduced pressure. The crude residue was purified over silica gel (230-400 M) using DCM-MeOH (96:4) to provide the title compound as light greenish solid (3.5 mg, 7%).

reactant | 1-ethyl-3-[7-(2-methoxy-thiazol-4-yl)-5-pyridin-3-yl-benzothiazol-2-yl]-urea | 0.12 mmol, 0.05 g | C(C)NC(=O)NC=1SC2=C(N1)C=C(C=C2C=2N=C(SC2)OC)C=2C=NC=CC2 | C19H17N5O2S2
reactant | BBr3 | 0.20 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-Ethyl-3-[7-(2-hydroxy-thiazol-4-yl)-5-pyridin-3-yl-benzothiazol-2-yl]-urea | 3.5 mg, 7% | C(C)NC(=O)NC=1SC2=C(N1)C=C(C=C2C=2N=C(SC2)O)C=2C=NC=CC2 | C18H15N5O2S2
